US07531532B2
Morpholine-4-carboxylic acid (4-{2-methyl-4-[3-(4-fluorophenyl)acetylthioureido]phenoxy}pyridin-2-yl)amide
To a solution of 2-(4-fluorophenyl)acetyl chloride (63.2 mg) in acetonitrile (30 ml) was added potassium thiocyanate (35.6 mg), followed by stirring under a nitrogen atmosphere at 50° C. for 1 hr. The reaction mixture was cooled down to room temperature, and then morpholine-4-carboxylic acid [4-(4-amino-2-methylphenoxy)pyridine-2-yl]amide (80 mg) was added thereto, followed by stirring under a nitrogen atmosphere for 2 hrs. The reaction mixture was partitioned between ethyl acetate (100 ml) and water (60 ml). The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=2:5, then ethyl acetate). Fractions containing the target compound were concentrated to give an oil, which was then added in diethyl ether concentrated under a reduced pressure again to give a solid. The resultant solid was then suspended in diethyl ether (4 ml)-ethanol (0.4 ml), filtered off, washed with diethyl ether, and dried under aeration to provide the titled compound (14 mg, 11%) as colorless powder.

reactant | 2-(4-fluorophenyl)acetyl chloride | 63.2 mg | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
reactant | potassium thiocyanate | 35.6 mg | [S-]C#N.[K+]
reactant | morpholine-4-carboxylic acid [4-(4-amino-2-methylphenoxy)pyridine-2-yl]amide | 80 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=C1)C | C17H20N4O3
reactant | ethanol | 0.4 ml | C(C)O | C2H6O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 4 ml | C(C)OCC | C4H10O
product | Morpholine-4-carboxylic acid (4-{2-methyl-4-[3-(4-fluorophenyl)acetylthioureido]phenoxy}pyridin-2-yl)amide | 14 mg, 11% | CC1=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=CC(=C1)NC(=S)NC(CC1=CC=C(C=C1)F)=O | C26H26FN5O4S
